US07314849B2
To solution of 4-acetylamino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester (5.0 g, 14 mmol) in methanol (25 mL) was added acetyl chloride (1 mL) and the solution heated under reflux for 1 hour. The solution was cooled and water (25 mL) added and the precipitate was collected. Recrystallization from methanol gave 4-amino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester (3.5 g, 11 mmol) mp 152-153° C.

reactant | 4-acetylamino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester | 14 mmol, 5.0 g | C(C)(=O)NC1=C(C(=NC(=C1)I)C(=O)OC)Cl | C9H8ClIN2O3
reactant | acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | water | 25 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | 4-amino-3-chloro-6-iodopyridine-2-carboxylic acid, methyl ester | 11 mmol, 3.5 g | NC1=C(C(=NC(=C1)I)C(=O)OC)Cl | C7H6ClIN2O2
